US08975254B2
b) 2-(tert-butyldiphenylsilyloxy)propanethioamide
A flask containing 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (387 mg, 0.957 mmol) was put under nitrogen atmosphere. 2-(tert-butyldiphenylsilyloxy)propanamide (622 mg, 1.899 mmol) dissolved in dry THF (10 ml) was added, temperature was raised to 60° C. and the mixture was allowed to react for 3 h. The solvent was evaporated and the product was extracted from DCM/water. The product was used in the next step without further purification. LC-MS: [M+1]=344.56.

reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.957 mmol, 387 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | 2-(tert-butyldiphenylsilyloxy)propanamide | 1.899 mmol, 622 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C(=O)N)C | C19H25NO2Si
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(tert-butyldiphenylsilyloxy)propanethioamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C(N)=S)C | C19H25NOSSi
